US04381304
In the same manner, but replacing 4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester with an equivalent amount of 8-bromo-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester, described in example 2, 8-bromo-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid is obtained.

reactant | 4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(NC1)C(C=CC=C2)=O)=O | C13H11NO4
reactant | 8-bromo-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(NC1)C(C(=CC=C2)Br)=O)=O | C13H10BrNO4
product | 8-bromo-4,9-dihydro-4,9-dioxo-1H-cyclohepta[b]pyridine-3-carboxylic acid | BrC1=CC=CC2=C(NC=C(C2=O)C(=O)O)C1=O | C11H6BrNO4
